US04016269
At room temperature, a solution of 460 mg. of p-nitroperbenzoic acid in 3 ml. of tert.-butanol and 0.6 ml. of ethylene chloride is gradually added to 600 mg. of 3-acetoxy-18-methyl-1,3,5(10),16-estratetraene in 20 ml. of ethylene chloride. After 18 hours, the crude product is worked up as described in (A) and purified by preparative layer chromatography (eluent: hexane/ethyl acetate = 7 : 3). In this way, 490mg. of 3-acetoxy-16α,17α-epoxy-18-methyl-1,3,5(10)-estratriene is isolated as an oily product.

reactant | p-nitroperbenzoic acid | [N+](=O)([O-])C=1C=CC(=CC1)C(=O)OO | C7H5NO5
reactant | tert.-butanol | C(C)(C)(C)O | C4H10O
reactant | 3-acetoxy-18-methyl-1,3,5(10),16-estratetraene | C(C)(=O)OC1=CC=2CC[C@H]3[C@@H]4CC=C[C@@]4(CC)CC[C@@H]3C2C=C1 | C21H26O2
solvent | ethylene chloride | C(CCl)Cl | C2H4Cl2
product | 3-acetoxy-16α,17α-epoxy-18-methyl-1,3,5(10)-estratriene | C(C)(=O)OC1=CC=2CC[C@H]3[C@@H]4C[C@@H]5[C@H]([C@@]4(CC)CC[C@@H]3C2C=C1)O5 | C21H26O3
